US07060827B2
In a manner similar to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-cyanopyrimidine and ethyl 4-aminophenylacetate were reacted to yield N2,N4-bis[4-(ethoxycarbonylmethyl)phenyl]-5-cyano-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.29 (bs, 1H), 7.46 (2d, 4H, J=7.8 Hz), 7.28 (d, 2 h, J=8.1 Hz), 7.19 (d, 2H, J=8.1 Hz), 4.16 (2q, 4H, J=6.3 Hz), 3.64 (s, 2H), 3.59 (s, 2H), 1.30–1.23 (m, 6H); LCMS: ret. time: 29.29 min.; purity: 93%; MS (m/e): 461 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 2,4-dichloro-5-cyanopyrimidine | ClC1=NC=C(C(=N1)Cl)C#N | C5HCl2N3
reactant | ethyl 4-aminophenylacetate | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
product | N2,N4-bis[4-(ethoxycarbonylmethyl)phenyl]-5-cyano-2,4-pyrimidinediamine | C(C)OC(=O)CC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)CC(=O)OCC)C#N | C25H25N5O4
